US04889853
8,9-Dimethoxy-7-hydroxy-6-methyl-5-phenyl-2-oxo-2,3,4,5-tetrahydrobenzoxepin
An amount of 18.4 g of 2,3-dimethoxy-5-methylhydroquinone and 16.2 g of γ-phenyl-γ-butyrolactone was stirred in 150 ml of polyphosphoric acid at room temperature for 5 hours. The reaction mixture obtained was poured into ice-water and extracted with ether, and the ether extract was washed with water and then dried over magnesium sulfate and concentrated. The concentrated residue was purified by silica gel column chromatography/hexaneethyl acetate (2:1), and thus 6.10 g (18.6%) of the desired compound was obtained.

reactant | 2,3-dimethoxy-5-methylhydroquinone | 18.4 g | COC1=C(O)C=C(C(=C1OC)O)C | C9H12O4
reactant | γ-phenyl-γ-butyrolactone | 16.2 g | C1(=CC=CC=C1)C1CCC(=O)O1 | C10H10O2
product | 8,9-Dimethoxy-7-hydroxy-6-methyl-5-phenyl-2-oxo-2,3,4,5-tetrahydrobenzoxepin | 6.10 g, 18.6% | COC1=C(C2=C(C(CCC(O2)=O)C2=CC=CC=C2)C(=C1O)C)OC | C19H20O5
